US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0300 g, 0.0650 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0540 mL, 0.390 mmol) and 3-fluoro-4-methylbenzenesulfonyl chloride (0.0410 g, 0.195 mmol) to obtain 4-(3-fluoro-4-methylbenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0191 g, yield 46%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0650 mmol, 0.0300 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.390 mmol, 0.0540 mL | C(C)N(CC)CC | C6H15N
reactant | 3-fluoro-4-methylbenzenesulfonyl chloride | 0.195 mmol, 0.0410 g | FC=1C=C(C=CC1C)S(=O)(=O)Cl | C7H6ClFO2S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(3-fluoro-4-methylbenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0191 g, yield 46% | FC=1C=C(C=CC1C)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C34H36FN3O6S
